US04814343
alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-methyl-1H-imidazole-4-methanol
Starting from 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin and 1-methyl-1H-imidazole-4-carboxaldehyde. The addition of the organomagnesium compound is carried out at 0° C. Yield: 63.5% of theory; M.P.: 131°-136° C. (recrystallized from ethyl acetate).

reactant | 8-bromo-6-chloro-2,2-dimethyl-4H-1,3-benzodioxin | BrC1=CC(=CC2=C1OC(OC2)(C)C)Cl | C10H10BrClO2
reactant | 1-methyl-1H-imidazole-4-carboxaldehyde | CN1C=NC(=C1)C=O | C5H6N2O
product | alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-methyl-1H-imidazole-4-methanol | Yield: 63.5% | ClC1=CC2=C(OC(OC2)(C)C)C(=C1)C(O)C=1N=CN(C1)C | C15H17ClN2O3
